US08461161B2
A solution of methyl 3-{1-[(tert-butoxycarbonyl)amino]ethyl}benzoate (200 mg, 0.72 mmol) in 20% trifluoroacetic acid in dichloromethane (10 mL) was stirred at room temperature for 1.5 hours. After this time the mixture was concentrated under reduced pressure and the residue was dissolved in water and basified to pH 11 with aqueous ammonia. The mixture was extracted with ethyl acetate (2×15 mL) and the extracts were washed with brine (20 mL), dried (Na2SO4) and concentrated under reduced pressure to give methyl 3-(1-aminoethyl)benzoate (130 mg, 100%) as a pale yellow oil.

reactant | methyl 3-{1-[(tert-butoxycarbonyl)amino]ethyl}benzoate | 0.72 mmol, 200 mg | C(C)(C)(C)OC(=O)NC(C)C=1C=C(C(=O)OC)C=CC1 | C15H21NO4
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 3-(1-aminoethyl)benzoate | 130 mg, 100% | NC(C)C=1C=C(C(=O)OC)C=CC1 | C10H13NO2
